Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Fish derived
 
Attending: ___.
 
Chief Complaint:
Lower back pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with PSC cirrhosis on the transplant list, 
portal vein thrombosis, leukocytoclastic vasculitis, and recent 
admission for chostrochondritis is admitted from clinic for back 
pain.    
.  
He was discharged on ___, and the patient notes that by 
___ he had developed back pain, that was more severe than his 
usual baseline. He notes the pain as "throbbing" in the center 
of his back that radiates around laterally.  It does not radiate 
one direction in particular. He notes he has been having regular 
bowel movements (increased his lactulose recently).  He denies 
any association of the pain with food, no N/V.  No dysuria, 
hematuria.  He has been radiating normally.  He has had some 
occasional chills, but no fevers, not worsening recently, and no 
cough.  No blood in his stool.  He notes his rash has worsened 
recently, so his prednisone was increased.  He has had two 
peracenteses within the last two days (once yesterday) that were 
negative. The pain continues.  He has been calling clinic and 
PCP frequently requesting pain medication. He states "I like 
that morphine."  He denies any weakness, and denies 
incontinence.  He notes chronic dyspnea on exertion that has not 
changed recently.
.
A review of systems is otherwise negative

 
Past Medical History:
- Cirrhosis c/b ascites, encephalopathy SBP, and bleeding 
esophageal varices, on transplant list  
- Primary sclerosing cholangitis, dx ___  
- portal vein thrombosis, on warfarin, dx ___  
- failed TIPS attempt ___  
- History of UGIB in ___  
- HCV: by history, had positive HCV with HCV VL in ___, but on 
follow up cleared HCV spontaneously  
- Horseshoe kidney w/intermittent renal insufficiency  
- Distant history of polysubstance abuse  
- History of dysphagia with normal barium swallow on ___  
- Typical Angina  
- Chostrochondritis ___
- Depression  
- Back pain  
- Sleep apnea  

 
Social History:
___
Family History:
No pertinent family history, including PSC, liver disease, or 
other gastrointestinal disease. (Has identical twin brother 
without above conditions). Grandfather with diabetes.  

 
Physical Exam:
Adm:
Vitals: 97.3 120/79 HR 68, O2 sat not recorded.  
General: Alert, oriented, no acute distress  
HEENT: Sclera icteric, MMM, OP clear  
Lungs: Clear b/l  
CV: RRR, no excess sounds appreciated.
Abdomen: Distended, non-tender to palpation, not tense. +CVA 
tenderness (equal b/l)
Ext: Warm, 2+ edema to the knees B/L
Back: no obvious deformity. Tenderness to palpation over all 
lumbosacral vertebrae.
Skin: palmar erythema, b/l petichiae over lower extremities, 
non-palpable
Neuro: Str ___ b/l.  Sensation intact to light touch bl.  
Gait:  Ambulates well with cane.
.
Discharge:
VS: Afebrile. VSS, HR ___.
General: Alert, oriented, no acute distress  
HEENT: Sclera icteric, MMM, OP clear  
Lungs: Clear b/l  
CV: RRR, no excess sounds appreciated.
Abdomen: Distended, non-tender to palpation, not tense. 
Ext: Warm, 2+ edema to the knees B/L
Back: no obvious deformity. Tenderness to palpation over all 
lumbosacral vertebrae. Significant pain when twisting upper 
torso (both directions)
Skin: palmar erythema, b/l petichiae over lower extremities, 
non-palpable, non-tender
Neuro: Str ___ b/l.  Sensation intact to light touch bl.  No 
asterixis
Gait:  Ambulates well with cane (baseline)

 
Pertinent Results:
Adm labs:

___ 03:45PM BLOOD WBC-12.9* RBC-3.92* Hgb-10.5* Hct-32.7* 
MCV-83 MCH-26.9* MCHC-32.3 RDW-24.2* Plt Ct-87*
___ 03:45PM BLOOD Neuts-90.2* Lymphs-7.1* Monos-2.2 Eos-0.4 
Baso-0.1
___ 03:45PM BLOOD ___ PTT-30.2 ___
___ 03:45PM BLOOD Glucose-199* UreaN-24* Creat-1.1 Na-130* 
K-5.2* Cl-94* HCO3-26 AnGap-15
___ 03:45PM BLOOD ALT-94* AST-102* AlkPhos-296* 
TotBili-5.5*
___ 03:45PM BLOOD Albumin-4.0 Calcium-9.0 Phos-3.7 Mg-2.0
.

___ 03:45PM BLOOD ___ PTT-30.2 ___
___ 06:00AM BLOOD ___ PTT-32.7 ___
___ 06:30AM BLOOD ___ PTT-35.0 ___
.
___ 06:00AM BLOOD C3-59* C4-7*
___ 06:00AM BLOOD CRP-28.4*
___ 06:00AM BLOOD Lipase-52
___ 06:00AM BLOOD ESR-5
.

___ 03:33PM ASCITES WBC-295* RBC-1265* Polys-31* Lymphs-38* 
Monos-22* Mesothe-7* Other-2*
___ 03:33PM ASCITES TotPro-0.2 Glucose-157 LD(LDH)-50 
Albumin-0.2
.
___ 06:19PM URINE Color-Yellow Appear-Clear Sp ___
___ 06:19PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 06:19PM URINE RBC-<1 WBC-<1 Bacteri-FEW Yeast-NONE 
Epi-0
___ 06:19PM URINE CastHy-5*
___ 06:19PM URINE Hours-RANDOM UreaN-698 Creat-75 Na-29 
K-53 Cl-53 TotProt-8 Prot/Cr-0.1
.
MICRO:  ALL NGTD AT TIME OF DISCHARGE
___ FLUID RECEIVED IN BLOOD CULTURE BOTTLES 
Fluid Culture in Bottles-PRELIMINARY INPATIENT 
___ PERITONEAL FLUID GRAM STAIN-FINAL; FLUID 
CULTURE-PRELIMINARY; ANAEROBIC CULTURE-PRELIMINARY INPATIENT 
___ BLOOD CULTURE Blood Culture, NGTD 
___ BLOOD CULTURE Blood Culture, NGTD
.
Imaging:
Images:  
___ Lumbo-sacral plain films: There are five non-rib-bearing 
vertebral bodies. Vertebral body heights are relatively flat and 
slightly bullet-shaped. No frank compression fracture is 
detected. Disc heights are preserved, except for mild narrowing 
at L1 through L3. No spondylolisthesis is detected. Mild facet 
arthrosis is present.  Compared with ___ and allowing for 
technical differences, I doubt significant interval change. 
Rounded density overlying the upper left SI joint likely 
represents a bridging osteophyte. 
  IMPRESSION: No acute fracture detected in the lumbar spine. 
Background degenerative changes are similar to ___ 
.
___ CT Abdomen:
1. No signs of bleeding are identified. 
2. Liver cirrhosis with secondary portal hypertension signs that 
include splenomegaly and portosystemic shunts and ascites. 
3. Stable portal vein thrombus. 
.
___ CXR: Known right aortic arch with correspondent asymmetry 
of the 
mediastinum. No pathologic process in the lung parenchyma, 
notably no 
pneumonia. No evidence of pleural effusions 
.
Discharge labs:

___ 06:30AM BLOOD WBC-13.7* RBC-3.66* Hgb-9.7* Hct-31.3* 
MCV-86 MCH-26.6* MCHC-31.0 RDW-24.5* Plt Ct-76*
___ 06:30AM BLOOD Neuts-84* Bands-0 Lymphs-4* Monos-8 Eos-4 
Baso-0 ___ Myelos-0
___ 06:30AM BLOOD Hypochr-3+ Anisocy-2+ Poiklo-1+ 
Macrocy-2+ Microcy-1+ Polychr-NORMAL Target-OCCASIONAL 
Bite-OCCASIONAL
___ 06:30AM BLOOD ___ PTT-35.0 ___
___ 06:30AM BLOOD Glucose-141* UreaN-17 Creat-0.9 Na-130* 
K-4.7 Cl-96 HCO3-25 AnGap-14
___ 06:30AM BLOOD ALT-112* AST-112* AlkPhos-263* 
TotBili-4.9*
___ 06:30AM BLOOD Calcium-8.7 Phos-2.1* Mg-2.1
 
Brief Hospital Course:
SUMMARY:  ___ year old male with PSC cirrhosis on the transplant 
list, portal vein thrombosis, leukocytoclastic vasculitis, and 
recent admission for chostrochondritis admitted from clinic for 
back pain. 
.  
# Back pain:  Extensive work-up negative, with no evidence of 
fracture, infection.  No neurological compromise to suggest cord 
involvement.  Most likely to be musculoskeletal sprain/strain 
given clinical picture, including positional nature, improvement 
with lidoderm patch and heat packs, and chronically distended 
abdomen which likely causes increased strain on his lower back.  
 
.
# Leukocytosis:  This was a new finding for the patient.  An 
infectious work-up was negative, incluidng UA, BCx, CXR, and 
ascites negative for SBP.  Most likely to represent 
glucocorticoid effect, and should be followed up as an 
outpatient.  Pain was managed with oxycodone, heat packs, 
lidoderm patches (12 hours on, 12 hours off), and tylenol.  
Standing tylenol was stopped for LFT elevations beyond baseline.
.
#PSC cirrhosis: Complicated by portal vein thrombosis, varices, 
refractory ascites, SBP.  500cc paracentesis done on ___ 
negative for SBP.  Continued Ciprofloxacin for SBP prophylaxis; 
lactulose, rifaximin, ursodiol, and cholestryramine.  Regarding 
diuretics, spironolactone was continued, but lasix was stopped, 
and torsemide started.  This change was made due to possibility 
of lasix leading to the patient's leukocytoclastic vasculitis 
(see below).  
.
#Portal vein thrombosis: On coumadin: INR subtherapeutic on 
admission:
INR 1.7 --> given 2mg
INR 1.6 --> given 3mg
INR 1.9 --> given 2mg
Next INR due ___.
.  
#Petichiae: Patient with leukocytoclastic vasculitis.  It is 
possible that the petichiae this admission are secondary to 
thrombocytopenia and liver disease, however could not exclude 
LCV.  The patient's LCV has been refractory to prednisone, with 
recurrence of the lesions when dose gets to 25mg daily.  
Rheumatology was consulted, and recommended a slower taper (40mg 
x1wk; 35mg x1wk; 30mg x1wk; 25mg x1wk, etc).  They did not feel 
a biologic steroid-sparing agent was indicated, in this patient 
with chronic liver disease.  It was felt on a previous admission 
that cephalosporins were the triggering medication.  After a 
review of the literature, lasix is another potential culprit 
medication.  Subsequently, lasix was stopped and torsemide 
started for diuresis.  Other etiologies like cryoglobulinemia, 
ANCA + vasculitidies were ruled out on previous admission.  It 
was not felt by the primary team or by rheumatology that there 
was any connection between the vasculitis and the back pain.  
C3, C4, ESR, CRP were checked and were at patient's baseline.  
Given the patient's potential reaction to lasix, Pentamadine was 
used for PCP ___ (1 dose given on ___ in lieu of 
bactrim.
.
# ___:  Patient had transient elevation in creatinine that 
improved back to baseline Cr 0.8-0.9 without significant 
intervention.  FeUrea 42% was not particularly suggestive of 
either pre-renal or intrinsic renal cause.
.
# Transaminitis: Chronic, secondary to PSC.  LFTs were increased 
beyond patient's baseline this admission, but stable at the time 
of discharge.  Likely medication effect, and will need outpt 
follow-up.
.
# Hyponatremia: Patient was placed on a PO fluid restriction, 
and sodium was stable at the time of discharge
.
# Thrombocytopenia: likely splenic sequestration. Stable.
# Anemia:  Chronic and stable. No evidence for blood loss during 
this admission.
# Depression: continued citalopram.
# GERD: Continued PPI
.  
===========  
TRANSITIONAL ISSUES:
-Lasix stopped; torsemide started 
-Lidocaine patches started 
-lactulose increased
-LFTs and WBC need to be trended closely following this 
admission
-Slow prednisone taper, starting at 40mg daily and tapering by 
5mg each week 
___ INR 1.7 --> given 2mg
___ INR 1.6 --> given 3mg
___ INR 1.9 --> given 2mg
Next INR due ___. Goal INR ___ for portal vein 
thrombosis
-Confirm ciprofloxacin dosing for SBP prophylaxis
 
Medications on Admission:
Cholestyramine Light 4 gram twice daily  
Ciprofloxacin 250mg daily 
Citalopram 40mg daily 
Cyclobenzaprine 5mg qHS 
Furosemide 80 mg daily
Gabapentin 200mg three times daily 
Ketoconazole 2% cream twice daily PRN rash 
Lactulose 30 TID
Prochlorperazine 5mg every 6 hours PRN nausea
Midodrine 10mg three times daily 
Zofran 4mg daily 
Oxycodone ___ every ___ hours PRN pain 
Pantoprazole 40mg daily 
Prednisone 40mg daily
Rifaximin 550mg twice daily 
Spironolactone 200mg daily 
Sucralfate 1 gram four times daily 
Trazodone 50mg qHS 
Viscous lidocaine 2% 1mL three times daily PRN mouth pain 
Simethicone 80mg four times daily PRN gas  
Ursodiol 500mg three times daily 
Coumadin 2mg WThF; 1mgSaSu
Calcium 500mg daily 
Magnesium oxide 400mg twice daily 
Multivitamin chewable daily 
 
Discharge Medications:
1. cholestyramine (with sugar) 4 gram Packet Sig: One (1) Packet 
PO BID (2 times a day).  
2. ciprofloxacin 250 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours).  
3. citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
4. cyclobenzaprine 10 mg Tablet Sig: 0.5 Tablet PO HS (at 
bedtime) as needed for muscle spasm.  
5. torsemide 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
6. gabapentin 100 mg Capsule Sig: Two (2) Capsule PO Q8H (every 
8 hours).  
7. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO QID (4 
times a day): To ensure ___ bowel movements daily, take extra 
dose(s) if you are confused.  
8. prochlorperazine maleate 5 mg Tablet Sig: One (1) Tablet PO 
every six (6) hours as needed for n/v.  
9. midodrine 5 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day).  
10. ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO once a day as needed for n/v.  
11. oxycodone 5 mg Tablet Sig: Three (3) Tablet PO Q4H (every 4 
hours) as needed for pain: Do not drive, operate machinery, or 
consume alcohol while taking this medication.
Disp:*30 Tablet(s)* Refills:*0*
12. prednisone 20 mg Tablet Sig: Two (2) Tablet PO once a day 
for 4 days: Take 40mg for 4 more days, then decrease total daily 
dose by 5mg per week.  
13. prednisone 5 mg Tablet Sig: qs Tablet PO According to taper: 
Start at 40mg for 4 more days, then decrease total dose by 5mg 
weekly.
Disp:*60 Tablet(s)* Refills:*0*
14. rifaximin 550 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
15. spironolactone 100 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
16. sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID (4 times 
a day).  
17. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for insomnia.  
18. ursodiol 250 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day).  
19. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable PO DAILY (Daily).  
20. magnesium oxide 400 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
21. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
22. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
23. simethicone 80 mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO QID (4 times a day) as needed for gas.  
24. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day) as needed for pain: Do not take more than 2 grams 
per day.  
25. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
Two (2) Adhesive Patch, Medicated Topical DAILY (Daily): 12 
hours on, 12 hours off (you should not have any patch on for 12 
hours per day).
Disp:*45 Adhesive Patch, Medicated(s)* Refills:*2*
26. warfarin 2 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___: Please check your INR on ___ and re-dose per their 
recommendations.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Musculoskeletal back strain/sprain causing severe pain
Primary sclerosing cholangitis
Cirrhosis
Portal vein thrombosis
Leukocytoclastic Vasculitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Ambulates with cane.

 
Discharge Instructions:
You were admitted for back pain.  It is likely that this pain is 
caused by an injury to the muscles of your lower back.  It is 
important to exercise daily, which is key in the healing process 
(which may take several weeks).  In addition to the lidoderm 
patches (12 hours on, 12 hours off each day) you should use 
heating pads to help with the pain.
.
We also did a paracentesis and removed the fluid from your 
belly.
.
Please follow-up with your outpatient physicians as scheduled 
below
.
Please note the following medication changes:
-STOP TAKING LASIX
-START TAKING TORSEMIDE (this is also a water pill, we are 
changing this medication because lasix can occasionally cause 
your type of skin rash)
-START using lidoderm patches - please make sure you use them as 
prescribed - 12 hours on, then 12 hours off.
-INCREASE lactulose to 4 times daily to make sure you have ___ 
bowel movements daily
-TAKE PREDNISONE ACCORDING TO THE FOLLOWING:
-40mg for 4 more days (until ___
-On ___, take 35mg for 1 week
-Then take 30mg for 1 week
-Then 25mg for 1 week
-Then 20mg for 1 week
-Then 15mg for 1 week
-Then 10mg for 1 week
-Then 5mg for 1 week and speak with your outpatient team
.
Please take 2mg coumadin daily and check your INR on ___ and 
follow their recommendations regarding further dosing.
 
Followup Instructions:
___